US06872731B2
7-Chloroimidazo[1,2-α]pyridine (3.0 g, 19.7 mmol) and sodium acetate (1.94 g, 23.6 mmol) were dissolved in a saturated solution of potassium bromide in methanol (25 ml) and cooled to 0° C. before adding bromine (3.3 g, 20.7 mmol) dropwise over 5 min. The mixture was allowed to stir for 15 min before pouring onto saturated sodium hydrogencarbonate solution (200 ml). The resulting solid was collected by filtration and dried under high vacuum to give 3-bromo-7-chloroimidazo[1,2-α]pyridine (3.64 g, 80%) as a white solid. 1H NMR (360 MHz, CDCl3) δH 6.92 (1H, dd, J 2 and 7), 7.61 (1H, s), 7.63 (1H, d, J 2), 8.05 (1H, d, J 7).

reactant | 7-Chloroimidazo[1,2-α]pyridine | 19.7 mmol, 3.0 g | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
reactant | sodium acetate | 23.6 mmol, 1.94 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 20.7 mmol, 3.3 g | BrBr | Br2
reactant | sodium hydrogencarbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | potassium bromide | [Br-].[K+]
solvent | methanol | 25 ml | CO | CH4O
product | 3-bromo-7-chloroimidazo[1,2-α]pyridine | 3.64 g, 80% | BrC1=CN=C2N1C=CC(=C2)Cl | C7H4BrClN2
